US05318965
Step 4. Ethyl 7-(3-acetamidopyrrolidin-1-yl)-5-benzylamino-6-fluoro-1-(2-methoxyethoxymethoxyphenyl) -4-oxo-4 H-quinoline-3-carboxylate
Ethyl 7-(3-acetamidopyrrolidin-1-yl)-5,6-difluoro-1-(2-methoxyethoxymethoxyphenyl)-4-oxo-4H-quinoline-3-carboxylate is reacted with benzylamine by a procedure similar to that of Example 22 step 3 to prepare the title compound.

reactant | Ethyl 7-(3-acetamidopyrrolidin-1-yl)-5,6-difluoro-1-(2-methoxyethoxymethoxyphenyl)-4-oxo-4H-quinoline-3-carboxylate | C(C)(=O)NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1)C1=C(C=CC=C1)OCOCCOC)C(=O)OCC)=O)F)F | C28H31F2N3O7
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | Ethyl 7-(3-acetamidopyrrolidin-1-yl)-5-benzylamino-6-fluoro-1-(2-methoxyethoxymethoxyphenyl) -4-oxo-4 H-quinoline-3-carboxylate | C(C)(=O)NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1)C1=C(C=CC=C1)OCOCCOC)C(=O)OCC)=O)NCC1=CC=CC=C1)F | C35H39FN4O7
